* Extracted by KLayout with SKY130 LVS runset on : 21/07/2026 20:18

.SUBCKT BUF_X2 1 3 4 5 7
M$1 2 1 4 6 sky130_fd_pr__pfet_01v8 L=0.15 W=1 AS=0.26 AD=0.1625 PS=2.52
+ PD=1.325
M$2 4 2 5 6 sky130_fd_pr__pfet_01v8 L=0.15 W=2 AS=0.2975 AD=0.4 PS=2.595 PD=3.8
M$4 2 1 3 7 sky130_fd_pr__nfet_01v8 L=0.15 W=0.65 AS=0.169 AD=0.105625 PS=1.82
+ PD=0.975
M$5 3 2 5 7 sky130_fd_pr__nfet_01v8 L=0.15 W=1.3 AS=0.193375 AD=0.26 PS=1.895
+ PD=2.75
.ENDS BUF_X2
